*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-02[uF]/50[V]
* Murata P/N :GCM155R71H223KA55
* Property : C = 2.20e-02[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71H223KA55 Port1 Port2
C01 Port1 N01 2.13e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.85e-10
R03 N02 N03 3.45e-02
C04 N03 N04 2.55e-06
R04 N03 N04 1.29e+03
C05 N04 N05 7.54e-06
R05 N04 N05 7.75e+01
C06 N05 N06 3.16e-06
R06 N05 N06 4.78e+01
C07 N06 N07 2.92e-06
R07 N06 N07 6.16e+00
C08 N07 N08 2.36e-06
R08 N07 N08 8.31e-01
C09 N08 N09 1.70e-06
R09 N08 N09 1.61e-01
C10 N09 N10 1.29e-06
R10 N09 N10 2.84e-02
L11 N10 N11 7.02e-11
R11 N10 N11 1.35e-01
L12 N11 N12 1.21e-11
R12 N11 N12 1.34e-01
C13 N12 N13 2.16e-07
L13 N12 N13 8.05e-12
R13 N12 N13 1.73e-02
C14 N13 N14 3.45e-08
L14 N13 N14 2.32e-11
R14 N13 N14 4.39e-02
C15 N14 Port2 6.61e-12
L15 N14 Port2 4.28e-11
R15 N14 Port2 7.56e+00
.ENDS GCM155R71H223KA55
